US09382228B2
A 0° C. solution of diisopropyl malonate (4.10 mL, 21.58 mmol) in DMF (30 mL) was treated with NaH (60% in mineral oil, 1.036 g, 25.9 mmol), warmed to RT, treated with NaI (0.647 g, 4.32 mmol) followed by the drop-wise addition of a solution of (1-(trifluoromethyl)cyclopropyl)methyl 4-methylbenzenesulfonate (2.54 g, 8.63 mmol) in DMF (30 mL) and heated at 80° C. overnight. The mixture was cooled to RT, quenched with satd. NH4Cl, extracted with hexane (3×) and the combined organics were dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MTBE/Hex) to afford diisopropyl 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonate (1.53 g, 57.1%). 1H NMR (400 MHz, DMSO-d6): δ 4.91 (m, 2H), 3.47 (t, J=7.2 Hz, 1H), 2.10 (d, J=7.2 Hz, 2H), 1.17 (dd, J=7.3, 6.3 Hz, 12H), 0.89 (m, 2H), 0.76 (m, 2H).

reactant | diisopropyl malonate | 21.58 mmol, 4.10 mL | C(CC(=O)OC(C)C)(=O)OC(C)C | C9H16O4
reactant | NaH | 25.9 mmol, 1.036 g | [H-].[Na+]
reactant | NaI | 4.32 mmol, 0.647 g | [Na+].[I-]
reactant | (1-(trifluoromethyl)cyclopropyl)methyl 4-methylbenzenesulfonate | 8.63 mmol, 2.54 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CC1)C(F)(F)F | C12H13F3O3S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | diisopropyl 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonate | 1.53 g, 57.1% | FC(C1(CC1)CC(C(=O)OC(C)C)C(=O)OC(C)C)(F)F | C14H21F3O4
